US06617326B2
5′-Amino-4,2′-difluorobiphenyl-2-carbonitrile (23 g, 100 mmol) was dissolved in hot 1,4-dioxane (20 ml) then treated with a chilled (5° C.) solution of hydrobromic acid (200 ml of a 48% solution in water). The resulting suspension was cooled to 2° C. (internal temperature) before adding a solution of sodium nitrite (6.9 g, 100 mmol) in water (14 ml) at such a rate that the internal temperature did not exceed 4° C. Once addition was complete the reaction was stirred at <4° C. for 1 h before pouring the reaction into a cooled (5° C.) solution of copper(I) bromide (21.5 g, 150 mmol) in 48% aqueous hydrobromic acid (75 ml). The resulting dark mixture was left to stir at ambient temperature for 15 min then heated at 50° C. for 40 min. After cooling to ambient temperature the mixture was diluted with water (1 l) and then extracted with ethyl acetate (2×400 ml). The organics were combined then washed with 10% ammonium hydroxide (500 ml), water (500 ml), brine (400 ml) and dried (MgSO4). Filtration and evaporation to dryness gave a brown oil, which crystallised on standing. Purification of this residue by dry flash chromatography (silica gel, 2-4% EtOAc/isohexane) furnished 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile as a white solid (27.5 g, 94%): 1H NMR (360 MHz, CDCl3) δ 7.11 (1H, dd, J 9, 9 Hz), 7.37-7.58 (5H, m).

reactant | 5′-Amino-4,2′-difluorobiphenyl-2-carbonitrile | 100 mmol, 23 g | NC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H8F2N2
reactant | sodium nitrite | 100 mmol, 6.9 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 75 ml | Br | BrH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 14 ml | O | H2O
solvent | water | 1 l | O | H2O
catalyst | copper(I) bromide | 150 mmol, 21.5 g | [Cu]Br
product | 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile | 27.5 g, 94% | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H6BrF2N
